US05780642
In a similar manner to Example 78, 2-[3-(imidazol-1-yl)propylamino]-2-methyl-1-propanol (1.0 g) was reacted with 4-chlorobenzoyl chloride (0.89 g) to give 2-[3-(imidazol-1-yl)propylamino]-2,2-dimethylethyl 4-chlorobenzoate dihydrochloride, m.p. 207°-209° C.

reactant | 2-[3-(imidazol-1-yl)propylamino]-2-methyl-1-propanol | 1.0 g | N1(C=NC=C1)CCCNC(CO)(C)C | C10H19N3O
reactant | 4-chlorobenzoyl chloride | 0.89 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 2-[3-(imidazol-1-yl)propylamino]-2,2-dimethylethyl 4-chlorobenzoate dihydrochloride | Cl.Cl.ClC1=CC=C(C(=O)OCC(C)(C)NCCCN2C=NC=C2)C=C1 | InChI=1S/C17H22ClN3O2.2ClH/c1-17(2,20-8-3-10-21-11-9-19-13-21)12-23-16(22)14-4-6-15(18)7-5-14;;/h4-7,9,11,13,20H,3,8,10,12H2,1-2H3;2*1H
